US08703953B2
A solution of 4-chloro-5-fluoronicotinic acid (1.7 g, 9.68 mmol) in acetonitrile (18 mL) was cooled to 0° C. To this solution was added DBU (3.65 mL, 24.21 mmol) dropwise and the resultant solution stirred for 30 min. Iodomethane (3.03 mL, 48.4 mmol) was added dropwise and stirred at room temperature for 12 h. The volatiles were removed completely under reduced pressure and the residue purified via silica gel chromatography using a gradient of ethyl acetate in hexane to afford methyl 4-chloro-5-fluoronicotinate (1.2 g, 6.33 mmol, 65% yield) as a yellow solid. LCMS (ESI) m/e 190.0 [(M+H)+, calcd for C7H6ClFNO2 190.0]; LC/MS retention time (Method F): tR=0.77 min.

reactant | 4-chloro-5-fluoronicotinic acid | 9.68 mmol, 1.7 g | ClC1=C(C=NC=C1C(=O)O)F | C6H3ClFNO2
reactant | DBU | 24.21 mmol, 3.65 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Iodomethane | 48.4 mmol, 3.03 mL | IC | CH3I
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | methyl 4-chloro-5-fluoronicotinate | 6.33 mmol, 1.2 g, 65% yield | ClC1=C(C=NC=C1C(=O)OC)F | C7H5ClFNO2
